US07067540B2
3-bromo-1-(cyclopropylmethyl)-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one
To a mixture of 3-bromo-1-(cyclopropylmethyl)-4-hydroxy-6-methylpyridin-2(1H)-one (0.276 g, 1.07 mmol) and K2CO3 (0.148 g, 1.07 mmol) in DMA (4 mL) was added 2,4-difluorobenzyl bromide (0.14 ml, 1.07 mmol). The mixture stirred at room temperature for 1.5 hours. The reaction mixture was diluted in water and extracted with ethyl acetate. The organic extracts were dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography (ethyl acetate/hexane 1:1 v/v). The appropriate fractions were combined, and concentrated. 1H-NMR (CD3OD, 400 MHz) δ 7.60 (q, 1H), 7.04 (m, 2H), 6.42 (s, 1H), 5.26 (s, 2H), 4.06 (s, 1H), 4.04 (s, 1H), 2.50 (s, 3H), 0.53 (m, 2H), 0.43 (m, 2H); ES-HRMS m/z 384.0392 (M+H calculated for C17H17N2OBrF2 requires 384.0405).

reactant | 3-bromo-1-(cyclopropylmethyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 1.07 mmol, 0.276 g | BrC=1C(N(C(=CC1O)C)CC1CC1)=O | C10H12BrNO2
reactant | K2CO3 | 1.07 mmol, 0.148 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-difluorobenzyl bromide | 1.07 mmol, 0.14 ml | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 3-bromo-1-(cyclopropylmethyl)-4-[(2,4-difluorobenzyl)oxy]-6-methylpyridin-2(1H)-one | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1CC1)=O | C17H16BrF2NO2
